Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
command auditory hallucinations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of depression,
schizophrenia, asthma who presented with worsening depression 
and
auditory hallucinations instructing to harm others. The patient
describes worsening of his depression for months, namely poor
energy, insomnia, hopelessness, and intermittent passive SI. He
is homeless since moving to ___ and no longer has a shelter 
to
stay in. Over the past two days prior to admission, he had
auditory hallucinations consisting of voices that instruct him 
to
hurt people, particularly men, without a particular plan to do
so. In the past, taking medications has helped control with 
these
hallucinations, however he has ran out of them for the past
weeks. Reportedly, he has been seen in other neighboring EDs for
similar complaints in the past couple of months. 

In the ED,

Initial vital signs: T 98.3, HR 88, BP 122/66, RR 18, O2 sat 98%
RA.

Exam notable for: Flat affect, poor dentition, swollen and
erythematous feet without edema.

Labs were notable for: CBC - WBC 15.4, Hgb 12.5, Plt 196; BMP -
Cr 1.0; negative UDS. 

Studies performed include: CXR- no acute cardiopulmonary
abnormalities.

Patient was given: PRN albuterol, ibuprofen, aripiprazole 10 mg,
lorazepam 2 mg IM, haloperidol 5 mg IM.

Consults: Psychiatry - recommended ___ due to potential
harm to others. 

The patient was in the ED for 4 days. During that time, he was
intermittently rude to nursing staff, required chemical
restraints overnight on ___. At that point the decision was 
made
to admit to Medicine while waiting for a psych bed.  

Upon arrival to the floor, he describes his mood as good. He's 
no
longer having auditory hallucinations. He tells me he was
previously in a shelter, and only taking Abilify. He denies drug
use in the past week. He wants to leave but understands that 
he's
in the hospital to get better. 

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
Asthma
Depression
Schizophrenia
 
Social History:
___
Family History:
No history of mental health disorders.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: T 98.0, BP 132/81, HR 98, RR 18, O2 sat 98 RA 
GEN: In NAD.
HEENT: PERRL, moist mucous membranes, oropharynx clear without
exudates.
NECK: No JVD, no cervical lymphadenopathy.
CV: RRR, no murmurs/gallops/rubs.
PULM: CTAB, no wheezing/crackles/rhonchi.
ABD: Soft, non tender, non distended.
EXTREM: No ___ edema. Pulses +2 ___P, ___ bilaterally.
SKIN: No rashes.
NEURO: A&Ox3, CN II-XII intact, motor and sensation grossly
intact. 
PSYCH: Cooperative, "good" mood, flattened affect, linear 
thought
process, no current SI/HI, no current visual/auditory
hallucinations.

DISCHARGE PHYSICAL EXAM:
======================
VITALS: 24 HR Data (last updated ___ @ 1209)
    Temp: 96.6 (Tm 98.0), BP: 118/79 (101-132/58-81), HR: 86
(86-98), RR: 18, O2 sat: 97% (96-98), O2 delivery: RA  
GEN: In NAD. Lying in bed

Pt refused exam

 
Pertinent Results:
ADMISSION LABS:
==============
___ 02:52PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:52PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:52PM URINE  RBC-1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 02:52PM URINE  MUCOUS-RARE*
___ 12:43PM   GLUCOSE-88 UREA N-17 CREAT-1.0 SODIUM-141 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 12:43PM   estGFR-Using this
___ 12:43PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:43PM   WBC-15.4* RBC-5.17 HGB-12.5* HCT-39.5* 
MCV-76* MCH-24.2* MCHC-31.6* RDW-16.6* RDWSD-45.7
___ 12:43PM   NEUTS-70.6 LYMPHS-18.6* MONOS-8.1 EOS-1.7 
BASOS-0.5 IM ___ AbsNeut-10.87* AbsLymp-2.86 AbsMono-1.24* 
AbsEos-0.26 AbsBaso-0.08
___ 12:43PM   PLT COUNT-196
___ 12:36PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
===============
___ 09:15AM BLOOD WBC-11.4* RBC-5.59 Hgb-13.5* Hct-42.5 
MCV-76* MCH-24.2* MCHC-31.8* RDW-16.5* RDWSD-44.3 Plt ___
___ 09:15AM BLOOD Glucose-94 UreaN-17 Creat-1.1 Na-140 
K-4.9 Cl-104 HCO3-26 AnGap-10
___ 09:15AM BLOOD Calcium-9.8 Phos-4.5 Mg-1.9

IMAGING:
========
CXR ___:
IMPRESSION: No acute cardiopulmonary abnormality.

MICROBIOLOGY:
=============
Time Taken Not Noted     Log-In Date/Time: ___ 2:53 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male w/ ___ depression and 
schizophrenia who is presenting with auditory hallucinations and 
homicidal ideation. He was admitted under ___.

ACUTE ISSUES
=============
#Acute depressive episode with SI, HI
#Auditory, visual hallucinations
Episode appears similar to recent hospitalizations per record 
review by Psych. Current trigger likely medication non 
adherence. He was medically cleared in the ED but was admitted 
to medicine pending psychiatry bed. Psychiatry initially had 
patient under ___ but this was subsequently discontinued 
as the patient's auditory hallucinations resolved with 
initiation of anti-psychotics.  He was cleared by psychiatry 
team for discharge home and was no longer felt to be a risk to 
himself or others. He was maintained on Abilify 10 mg for one 
day while in house and discharged on risperidone 1mg twice daily 
because of cost. He was given a free two-week supply.

#leukocytosis
Initial labs with leukocytosis WBC 15, no labs since ___. Per 
documentation no complaints of cough, fever, loose stool, skin 
breakdown. Urine culture negative and CXR w/o consolidation. 
Improved to 11 on discharge.

#Med rec
Patient with inconsistent medication history, reportedly taking 
both aripiprazole and valproic acid. However, recently 
discharged from OSH on risperidone. He was discharged on 
risperidone as above.

CHRONIC ISSUES
===============
#Asthma: Not on albuterol inhaler. Continue to monitor for 
symptoms

#Tobacco use disorder: Smoker of 7 cigarettes daily. Did not 
want nicotine patch while in house.

TRANSITIONAL ISSUES
===================
Patient plans to take bus to return to ___. He was agreeable 
to pay the fee as quoted by ___. Unfortunately no further 
financial assistance regarding this could be given.

MEDICATION: Risperidone 1mg twice daily

Other:
[] Please ensure patient has appropriate psychiatric follow-up 
and refill of medications.

___ - for psychiatric medication management and
substance use counseling:
p: ___ 
Pt was seen last fall for psychiatry and group substance use
therapy. He was last prescribed risperidone 2mg BID and Cogentin
2mg daily at the end ___. He could re-enroll by calling
or walking in for med management and group therapy. 

___ (___ recovery ___)
Pt can return to live here for $520/month
p: ___
This group recovery home, where patient stayed last ___, was 
called during hospital stay and updated on the plan. They will 
plan to reserve a bed if patient calls. He'll be expected to go 
to a recovery clinic and live a sober lifestyle. He'd owe $520 
monthly in rent

[] Tobacco cessation counseling
[] Please monitor for further command hallucinations which may 
require repeat hospitalization especially if concern for harm to 
self or others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 30 mg PO DAILY 

 
Discharge Medications:
1.  RisperiDONE 1 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Command auditory hallucinations

SECONDARY DIAGNOSIS:
===================
Schizophrenia
Depression
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a privilege caring for you at ___.  
Please see below for more information on your hospitalization. 
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?  
- You were hearing voices that were possibly telling you to hurt 
people
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
- We ensured your safety
- Psychiatry evaluated you and helped us with your treatment
- We started a medication to treat your auditory hallucinations
- We recommend that you try to get back to ___. See below for 
resources.
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take your new medication-- risperidone. We got you a free 2 
week supply of this, which you should take twice daily.
- Seek medical attention if you have new or concerning symptoms 
of auditory or visual hallucination, feelings of paranoia or 
that you feel that you may want to harm yourself or others.

These are the resources in ___ - for psychiatric medication management and 
substance use counseling:
p: ___ 

___ Living (Group recovery home)
Pt can return to live here for $520/month
p: ___

It was a pleasure taking part in your care here at ___!  
We wish you all the best!  
- Your ___ Care Team  
 
Followup Instructions:
___